US06969713B2
i) 2-Chloro-N-(5-cyano-2-methylphenyl)acetamide
The subtitle compound was prepared from 5-cyano-2-methylaniline (1.6 g) and chloroacetyl chloride (1.1 ml) by the method of Example 33 step (iii) as a white solid. Yield: 1.85 g

reactant | 5-cyano-2-methylaniline | 1.6 g | C(#N)C=1C=CC(=C(N)C1)C | C8H8N2
reactant | chloroacetyl chloride | 1.1 ml | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-(5-cyano-2-methylphenyl)acetamide | ClCC(=O)NC1=C(C=CC(=C1)C#N)C | C10H9ClN2O
